US07888364B2
6-chloropyridin-2-yl trifluoromethanesulfonate (4.12 mmol) was used in Procedure I with trimethyltin chloride to yield 2-chloro-6-(trimethylstannyl)pyridine. The crude material (˜4 mmol) was used in Procedure K with N-(4-chloro-3-iodophenyl)-2-methyl-6-(trifluoromethyl)nicotinamide (2 mmol). Purified by silica gel chromatography (545% ethyl acetate/hexane) to yield N-(4-chloro-3-(6-chloropyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a white solid: TLC Rf=0.45 (25% ethyl acetate/hexanes); MS (Q1) 426 (M)+.

reactant | 6-chloropyridin-2-yl trifluoromethanesulfonate | 4.12 mmol | FC(S(=O)(=O)OC1=NC(=CC=C1)Cl)(F)F | C6H3ClF3NO3S
reactant | trimethyltin chloride | C[Sn](C)(C)Cl
product | 2-chloro-6-(trimethylstannyl)pyridine | ClC1=NC(=CC=C1)[Sn](C)(C)C | InChI=1S/C5H3ClN.3CH3.Sn/c6-5-3-1-2-4-7-5;;;;/h1-3H;3*1H3;
